US06656938B2
A solution of tert-butyl 2-[2-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate (4.12 g, 10.0 mmol) in 50 mL of CH2Cl2 was treated with 3-chloroperoxybenzoic acid (MCPBA, 77%, 2.5 g, 11.2 mmol). After stirring for 5 h, the reaction mixture was treated with saturated NaHCO3 solution and the layers were separated. The organic portion was washed with H2O and brine then dried over Na2SO4 and concentrated to give 3.68 g of tert-butyl 2-[2-(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate as a light brown foam.

reactant | tert-butyl 2-[2-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate | 10.0 mmol, 4.12 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCNC(OC(C)(C)C)=O | C23H32N4O3
reactant | 3-chloroperoxybenzoic acid | 11.2 mmol, 2.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-[2-(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate | 3.68 g | C(CCC)C=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCOCCNC(OC(C)(C)C)=O | C23H32N4O4
